US04787931
A stirred mixture of 15.3 g (0.073 mole) of methyl 2,6-dichloroisonicotinate in 180 ml of trifluoroacetic acid was heated at 90° C. During a six hour period 34 ml of 30% hydrogen peroxide was added to the hot reaction mixture in four to five ml aliquots. After complete addition the reaction mixture was stirred at 90° C. for two hours. The solvent was distilled from the mixture under reduced pressure to leave a solid. The solid was triturated with water, and the mixture was then filtered. The filter cake was recrystallized from acetone to yield 8.75 g of methyl 2,6-dichloroisonicotinate N-oxide.

reactant | methyl 2,6-dichloroisonicotinate | 0.073 mole, 15.3 g | ClC=1C=C(C(=O)OC)C=C(N1)Cl | C7H5Cl2NO2
reactant | hydrogen peroxide | 34 ml | OO | H2O2
solvent | trifluoroacetic acid | 180 ml | FC(C(=O)O)(F)F | C2HF3O2
product | methyl 2,6-dichloroisonicotinate N-oxide | 8.75 g | ClC=1C=C(C(=O)OC)C=C([N+]1[O-])Cl | C7H5Cl2NO3
